US09056859B2
A solution of [2-ethenyl-4-(1H-tetrazol-1-yl)phenyl]acetic acid (43 mg, 0.19 mmol) in 10 mL of anhydrous DCM was added 5-[2-(piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one hydrochloride (53 mg, 0.19 mmol), EDC (56 mg, 0.28 mmol), HOBt (38 mg, 0.28 mmol), TEA (115 mg, 1.14 mmol) and then stirred at ambient temperature overnight. Then DCM was added and then mixture was washed with brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified by prep-TLC to afford 5-[2-(4-{[2-ethenyl-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one. 1H-NMR (400 MHz, CDCl3) δ ppm 9.0 (s, 1H), 7.75˜7.78 (m, 2H), 7.48˜7.51 (m, 1H), 7.26˜7.31 (m, 3H), 6.76˜6.84 (rn, 1H), 5.7 (d, J=17.2 Hz, 1H), 5.44 (d, J=10.9 Hz, 1H), 5.22 (s, 2H), 3.75 (s, 2H), 3.6˜3.65 (m, 2H), 3.45˜3.48 (m, 2H), 2.86˜2.9 (m, 2H), 2.59˜2.64 (m, 2H), 2.41˜2.5 (m, 4H).

reactant | [2-ethenyl-4-(1H-tetrazol-1-yl)phenyl]acetic acid | 0.19 mmol, 43 mg | C(=C)C1=C(C=CC(=C1)N1N=NN=C1)CC(=O)O | C11H10N4O2
reactant | 5-[2-(piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one hydrochloride | 0.19 mmol, 53 mg | Cl.N1(CCNCC1)CCC1=CC2=C(C(OC2)=O)C=C1
reactant | EDC | 0.28 mmol, 56 mg
reactant | HOBt | 0.28 mmol, 38 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(4-{[2-ethenyl-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one | C(=C)C1=C(C=CC(=C1)N1N=NN=C1)CC(=O)N1CCN(CC1)CCC1=CC2=C(C(OC2)=O)C=C1 | C25H26N6O3
